US08304557B2
N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide
A mixture of N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-3-methylpyridine-2-carboxamide (9.68 g, 18.2 mmol), trifluoroacetic anhydride (30 mL) and tetrahydrofuran (250 mL) was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure, ethanol (200 mL) and 4M aqueous sodium hydroxide solution (60 mL) were added to the residue, and the mixture was stirred at room temperature for 19 hr. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→100% ethyl acetate-hexane) to give the title compound (4.52 g, 69%) as a pale-yellow oil.

reactant | N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-3-methylpyridine-2-carboxamide | 18.2 mmol, 9.68 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(=O)C1=NC=CC=C1C)=O | C27H25N5O5S
reactant | trifluoroacetic anhydride | 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 4.52 g, 69% | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
